US07601856B2
Following the procedure of Example 1, tetrahydro-dibenzofuran-2-ylamine (0.94 g, 5.0 mmol) and benzoyl chloride (0.64 mL, 5.5 mmol) in pyridine (10 mL) provided N-(6,7,8,9-tetrahydro-dibenzofuran-2-yl)-benzamide (0.75 g). Mp 178-180° C.; Anal. Calcd. for C19H17NO2: C, 78.33; H, 5.88; N, 4.81; Found: C, 78.10; H, 5.86; N, 4.81.

reactant | tetrahydro-dibenzofuran-2-ylamine | 5.0 mmol, 0.94 g | C1C(CCC=2OC3=C(C21)C=CC=C3)N | C12H13NO
reactant | benzoyl chloride | 5.5 mmol, 0.64 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | N-(6,7,8,9-tetrahydro-dibenzofuran-2-yl)-benzamide | 0.75 g | C1=C(C=CC=2OC3=C(C21)CCCC3)NC(C3=CC=CC=C3)=O | C19H17NO2
